US07034039B2
A solution of tert-butyl(4-butoxy-6-cyano-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinyl)methylcarbamate (0.85 g, 2 mmol), triethylamine hydrochloride (0.34 g, 2.5 mmol) and sodium azide (0.16 g, 2.5 mmol) in toluene (20 ml) was stirred at 90° C. for 24 h. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The obtained crystals were recrystallized from tetrahydrofuran-diisopropyl ether to give tert-butyl [4-butoxy-2-isobutyl-1-oxo-6-(1H-tetrazol-5-yl)-1,2-dihydro-3-isoquinolinyl]methylcarbamate (0.50 g, 53.2%) as crystals.

reactant | tert-butyl(4-butoxy-6-cyano-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinyl)methylcarbamate | 2 mmol, 0.85 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1OCCCC)C#N)=O)CC(C)C)=O | C24H33N3O4
reactant | triethylamine hydrochloride | 2.5 mmol, 0.34 g | Cl.C(C)N(CC)CC
reactant | sodium azide | 2.5 mmol, 0.16 g | [N-]=[N+]=[N-].[Na+]
reactant | water | O | H2O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | tert-butyl [4-butoxy-2-isobutyl-1-oxo-6-(1H-tetrazol-5-yl)-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 0.50 g, 53.2% | C(CCC)OC1=C(N(C(C2=CC=C(C=C12)C1=NN=NN1)=O)CC(C)C)CNC(OC(C)(C)C)=O | C24H34N6O4
